US07273877B2
4-(2-Fluoro-4-iodoanilino)-N-(3-hydroxypropyl)-6-oxo-1,6-dihydro-3-pyridinecarboxamide was reacted with TMS-acetylene in the presence of CuI, (Ph3P)2PdCl2 and TEA in THF/DMF (1:1) as for example 2. The residue resulting from removal of the reaction solvents under reduced pressure was purified by column chromatography on silica gel (10% MeOH/CH2Cl2 as eluant) to give 4-{2-fluoro-4-[(trimethylsilyl)ethynyl]anilino}-N-(3-hydroxypropyl)-6-oxo-1,6-dihydro-3-pyridinecarboxamide as an off-white solid (94%), used directly in the next step. 1H NMR [(CD3)2SO, 400 MHz] δ 11.48 (br s, 1H), 10.50 (s, 1H), 8.49 (t, J=5.4 Hz, 1H), 7.93 (s, 1H), 7.49 (t, J=8.5 Hz, 1H), 7.43 (dd, J=11.5, 1.8 Hz, 1H), 7.30 (dd, J=8.3, 1.5 Hz, 1H), 5.66 (s, 1H), 4.46 (t, J=5.1 Hz, 1H), 3.45 (q, J=5.9 Hz, 2H), 3.25 (q, J=6.5 Hz, 2H), 1.65 (pentet, J=6.7 Hz, 2H), 0.23 (s, 9H). HRMS (FAB+) calcd C20H25FN3O3Si (MH+) 402.1649, found 402.1649.

reactant | 4-(2-Fluoro-4-iodoanilino)-N-(3-hydroxypropyl)-6-oxo-1,6-dihydro-3-pyridinecarboxamide | FC1=C(NC=2C(=CNC(C2)=O)C(=O)NCCCO)C=CC(=C1)I | C15H15FIN3O3
reactant | TMS-acetylene | [Si](C)(C)(C)C#C | C5H10Si
solvent | THF DMF | C1CCOC1.CN(C)C=O
catalyst | CuI | [Cu]I
catalyst | (Ph3P)2PdCl2 | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-{2-fluoro-4-[(trimethylsilyl)ethynyl]anilino}-N-(3-hydroxypropyl)-6-oxo-1,6-dihydro-3-pyridinecarboxamide | 94% | FC1=C(NC=2C(=CNC(C2)=O)C(=O)NCCCO)C=CC(=C1)C#C[Si](C)(C)C | C20H24FN3O3Si
